US07700624B2
C. Preparation of 3,4,4-trimethoxypiperidine
The title compound was prepared by taking tert-butyl 3,4,4-trimethoxypiperidine-1-carboxylate (424 mg, 0.00154 mol) in Methylene chloride (10 mL, 0.2 mol) and adding Trifluoroacetic Acid (1 mL, 0.02 mol). The reaction was stirred for 3 h. The solvent was removed in vacuo and the crude taken to the next step (270 mg, 99%). MS calculated for C8H17NO3: (M+H) 176; found 176.1.

reactant | tert-butyl 3,4,4-trimethoxypiperidine-1-carboxylate | 0.00154 mol, 424 mg | COC1CN(CCC1(OC)OC)C(=O)OC(C)(C)C | C13H25NO5
reactant | Methylene chloride | 0.2 mol, 10 mL | C(Cl)Cl | CH2Cl2
reactant | Trifluoroacetic Acid | 0.02 mol, 1 mL | FC(C(=O)O)(F)F | C2HF3O2
product | 3,4,4-trimethoxypiperidine | COC1CNCCC1(OC)OC | C8H17NO3
